US06300363B1
3-[[(S)-2-Acetoxypropionyl]amino]-6-chloro-2-(4-chloropyridine-2-carbonyl)indole
The title compound was prepared according to the procedure described in Example 19 employing 3-amino-6-chloro-2-(4-chloropyridine-2-carbonyl)indole (Exampe 68) and (S)-(−)-2-acetoxypropionyl chloride. m.p.: 236-238° C. (recrystallized from ethyl acetate) IR(KBr)ν: 3287, 1738, 1693, 1624, 1585, 1570, 1545, 1489, 1236, 1188, 739 cm−1. 1H-NMR (DMSO-d6) δ: 12.09 (1 H, br s), 10.67 (1 H, br s), 8.77 (1 H, dd, J=5.5 and 1.8 Hz), 8.10 (1 H, t, J=1.9 Hz), 7.93 (1 H, dd, J=9.1, 1.8 Hz), 7.88 (1 H, dt, J=5.4, 2.3 Hz), 7.64 (1 H, t, J=1.9 Hz), 7.12 (1 H, dt, J=9.1, 2.1 Hz), 5.13 (1 H, q, J=6.8 Hz), 2.18 (3 H, s), 1.35 (3 H, d, J=6.9 Hz).

reactant | 3-amino-6-chloro-2-(4-chloropyridine-2-carbonyl)indole | NC1=C(NC2=CC(=CC=C12)Cl)C(=O)C1=NC=CC(=C1)Cl | C14H9Cl2N3O
reactant | (S)-(−)-2-acetoxypropionyl chloride | C(C)(=O)O[C@H](C(=O)Cl)C | C5H7ClO3
product | 3-[[(S)-2-Acetoxypropionyl]amino]-6-chloro-2-(4-chloropyridine-2-carbonyl)indole | C(C)(=O)O[C@H](C(=O)NC1=C(NC2=CC(=CC=C12)Cl)C(=O)C1=NC=CC(=C1)Cl)C | C19H15Cl2N3O4
